US07728013B2
A mixture of 5-(trifloromethyl)-2(1H)-pyridone (815.5 mg, 5 mmol), 4-iodoanisole (2.34 g, 10 mmol), CuI (952 mg, 5 mmol), K2CO3 (691 mg, 5 mmol) and DMF (5 ml) was heated at 135° C. overnight. The reaction mixture was diluted with 10% ammonia (15 ml) and extracted with ethyl acetate. The organic extract was washed with saturated sodium chloride, dried over magnesium sulfate and evaporated. Column chromatography purification (30% ethyl acetate-hexane) afforded 526 mg (39.2%) of 1-(4-methoxyphenyl)-5-(trifloromethyl)-2-pyridone. This compound (268.2 mg, 1 mmol) was treated with 1M BBr3 solution in dichloromethane (DCM, 2 ml) in DCM (5 ml) for 2 hours at 0° C. Reaction mixture was diluted with DCM and washed 3 times with water. Organic phase was dried over sodium sulfate and evaporated. The residue was separated by column chromatography (20% ethyl acetate-DCM) to afford the title compound as a off-white solid, 226 mg (89%). The 1H NMR spectra was consistent with the structure of Compound 10.

reactant | 5-(trifloromethyl)-2(1H)-pyridone | 5 mmol, 815.5 mg | FC(C=1C=CC(NC1)=O)(F)F | C6H4F3NO
reactant | 4-iodoanisole | 10 mmol, 2.34 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | K2CO3 | 5 mmol, 691 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ammonia | 15 ml | N | H3N
catalyst | CuI | 5 mmol, 952 mg | [Cu]I
product | 1-(4-methoxyphenyl)-5-(trifloromethyl)-2-pyridone | 526 mg, 39.2% | COC1=CC=C(C=C1)N1C(C=CC(=C1)C(F)(F)F)=O | C13H10F3NO2
